US08426541B2
Preparation of N-(3,5-dichloro-2-hydroxybenzoyl)-L-phenylalanine (OTA template).
One hundred and eight grams of ethyl ester of N-(2-acetoxy-3,5-dichlorobenzoyl)-L-phenylalanine were dissolved in 1 L of anhydrous ethyl alcohol and placed in a 2 L round bottomed flask equipped with a magnetic stirring bar and placed in water bath at ambient temperature. Into this mixture a solution of 33.33 g of sodium hydroxide in 37.2 mL of water was added in a single portion and the mixture stirred at ambient temperature for 17 h (overnight). A volume of 68.6 mL of concentrated hydrochloric acid was added under stirring, which was maintained for an additional of 2 h. The precipitated sodium chloride was filtered off and the filtrate evaporated to dryness at 60° C. under 30 T of pressure. The residue of 88.9 g (98% yield) solidified after cooling in form of a colorless glassy product, which was well soluble in toluene or acetonitrile, thereby producing an OTA template (e.g., for use in MIP-OTA production). MS: M+354 and 356 1H NMR (CDCl3, ppm): 12.2 very broad s, 1H, 7.49 d, J 2.4, 1H, 7.35-7.28 m, 3H, 7.20 d, J 2.0, 1H, 7.18-7.16 m, 2H, 6.80 br d, J 6.4, 1H, 6.4 very broad s, 1H, 5.07 dd, 5.2 and 5.2, 1H, 3.34 dd, J 14.0 and 5.2, 1H, 3.27 dd, J 13.6 and 5.2, 1H.

reactant | N-(2-acetoxy-3,5-dichlorobenzoyl)-L-phenylalanine | C(C)(=O)OC1=C(C(=O)N[C@@H](CC2=CC=CC=C2)C(=O)O)C=C(C=C1Cl)Cl | C18H15Cl2NO5
reactant | sodium hydroxide | 33.33 g | [OH-].[Na+]
reactant | hydrochloric acid | 68.6 mL | Cl | ClH
solvent | ethyl alcohol | 1 L | C(C)O | C2H6O
solvent | water | O | H2O
solvent | water | 37.2 mL | O | H2O
product | N-(3,5-dichloro-2-hydroxybenzoyl)-L-phenylalanine | 98% yield | ClC=1C(=C(C(=O)N[C@@H](CC2=CC=CC=C2)C(=O)O)C=C(C1)Cl)O | C16H13Cl2NO4
